US05407451
Synthesis of 1,2-dihydroxypropane octadecyl sulfide borate
A solution of 1,2-dihydroxypropane octadecyl sulfide (80 g ), prepared as described in Example 1, n-butanol (43 g), and toluene (76 g) was heated to 60° C. and 9.3 g of boric acid were added. The expected amount of water was removed by azeotropic distillation with a maximum reaction temperature of 110° C. The reaction solution was filtered through diatomaceous earth. Solvent was removed by high speed rotary evaporation under reduced pressure yielding a waxy, white solid product.

reactant | 1,2-dihydroxypropane octadecyl sulfide | 80 g | C(CCCCCCCCCCCCCCCCC)SCCCCCCCCCCCCCCCCCC.OCC(C)O
reactant | n-butanol | 43 g | C(CCC)O | C4H10O
reactant | boric acid | 9.3 g | B(O)(O)O | BH3O3
solvent | toluene | 76 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydroxypropane octadecyl sulfide borate | B(O)(O)O.C(CCCCCCCCCCCCCCCCC)SCCCCCCCCCCCCCCCCCC.OCC(C)O | InChI=1S/C36H74S.C3H8O2.BH3O3/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-37-36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;1-3(5)2-4;2-1(3)4/h3-36H2,1-2H3;3-5H,2H2,1H3;2-4H
